US04382143
Preparation of 4-hexadecylamino-2-formylthiophene
Di-isobutylaluminum hydride (14 ml., 25% solution in toluene) is added with stirring to a solution of 2.9 g. of 4-hexadecylamino-2-cyanothiophene in toluene under a nitrogen atmosphere. The temperature rises during the addition and the reaction is then stirred for 1 hour. A solution of methanol in toluene (14 ml., 1:1) is added over 30 minutes and the mixture is poured into vigorously stirred ice-cold aqueous sulfuric acid (125 ml., 5%). After 10 minutes diatomaceous earth (7.5 g.) is added, the mixture filtered and the organic layer separated. The aqueous solution is extracted twice with toluene (25 ml.) and the combined organic layers are washed with aqueous sodium bicarbonate, dried over magnesium sulfate, decolorized with charcoal, filtered and evaporated in vacuo to give crude product. The product is obtained by recrystallization from dichloromethane-hexane.

reactant | Di-isobutylaluminum hydride | 14 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4-hexadecylamino-2-cyanothiophene | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C#N | C21H36N2S
reactant | methanol | CO | CH4O
reactant | dichloromethane hexane | ClCCl.CCCCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
product | 4-hexadecylamino-2-formylthiophene | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C=O | C21H37NOS
